US08536210B2
Step 1: 1,3-Dimethyl-2,4-dioxo-6-(propylthio)-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (Method D, as a preferred embodiment of Procedure D, Scheme 6)
To a stirred solution of propane-1-thiol (2.30 mmol) in dry 1,4-dioxane (4 ml), NaH (2.30 mmol) was added under argon. To the mixture, a solution of 6-chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (2 mmol) in dry 1,4-dioxane (8 ml) was added at 5-8° C. in one portion. The mixture was stirred at room temperature until the starting material was consumed (monitored by TLC). Then the mixture was poured onto ice water (50 ml) and the aqueous phase was extracted with ethyl acetate (3×30 ml). The combined organic phases were washed with water and dried over anhydrous MgSO4. The solvent was evaporated in vacuo and the crude product was purified by column chromatography with a mixture of n-hexane:ethyl acetate (1:1) as the eluent.

reactant | propane-1-thiol | 2.30 mmol | C(CC)S | C3H8S
reactant | NaH | 2.30 mmol | [H-].[Na+]
reactant | 6-chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | 2 mmol | ClC1=C(C(N(C(N1C)=O)C)=O)C=O | C7H7ClN2O3
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 1,3-Dimethyl-2,4-dioxo-6-(propylthio)-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | CN1C(N(C(C(=C1SCCC)C=O)=O)C)=O | C10H14N2O3S
